US04841045
A solution of 30.0 g (0.234 mmol) of 2-ethylvalerolactone in 150 mL of dry methanol and 0.5 mL of conc. sulfuric acid was stored under argon for 17 h at 20° C. Then 10.0 g of potassium carbonate was added and the mixture stirred for 20 min. After filtration, and concentration at 40° C. under vacuum, the residue was dissolved in 100 mL of ether. The solution was washed with 200 mL of satd. sodium carbonate, 100 mL of satd. brine, dried over MgSO4, filtered, concentrated and the residue distilled to give 32.1 g (86%) of methyl 2-ethyl-5-hydroxyvalerate, bp 58°-60° C. (0.5 mm Hg).

reactant | 2-ethylvalerolactone | 0.234 mmol, 30.0 g | C(C)C1C(=O)OCCC1 | C7H12O2
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 150 mL | CO | CH4O
solvent | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
product | methyl 2-ethyl-5-hydroxyvalerate | 32.1 g, 86% | C(C)C(C(=O)OC)CCCO | C8H16O3
